US07456164B2
4-[4-(1-Cyclopentylpiperidin-4-yloxy)phenyl]tetrahydropyran-4-carbonitrile
4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (459 mg, 2.26 mmol) in DMF (2 ml) was added to a solution of NaH (100 mg, 2.5 mmol) in DMF (2 ml) at room temperature under N2. The reaction was stirred for 1 hr and a solution of methanesulfonic acid 1-cyclopentyl-piperidin-4-yl ester (447 mg, 1.81 mmol) in DMF (1.3 ml) was slowly added. The reaction was heated to 75° C. and stirred for 6 hrs. The reaction was allowed to cool to room temperature and diluted with TBME (20 ml), water (10 ml) and 5M NaOH solution (10 ml). The organic layer was washed with 2.5M NaOH (2×20 ml), brine (2×20 ml), dried over MgSO4, filtered and concentrated in vacuo. The crude reaction was purified by successive column chromatography, eluting with DCM:MeOH:NH3 (98:1:1) to give the title compound as a pale yellow solid (81 mg, 13%). 1H NMR (400 MHz, CDCl3) δ 7.37 (d, 2H), 6.93 (d, 2H), 4.36 (m, 1H), 4.11-4.04 (m, 2H), 3.89 (td, 2H), 2.91-2.77 (m, 2H), 2.67-2.25 (m, 2H), 2.15-1.99 (m, 7H), 1.95-1.81 (m, 4H), 1.78-1.64 (m, 2H), 1.62-1.39 (m, 4H).

reactant | 4-(4-Hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 2.26 mmol, 459 mg | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | NaH | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | methanesulfonic acid 1-cyclopentyl-piperidin-4-yl ester | 1.81 mmol, 447 mg | C1(CCCC1)N1CCC(CC1)OS(=O)(=O)C | C11H21NO3S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
solvent | TBME | 20 ml | CC(C)(C)OC | C5H12O
solvent | water | 10 ml | O | H2O
solvent | NaOH | 5M, 10 ml | [OH-].[Na+]
product | 4-[4-(1-Cyclopentylpiperidin-4-yloxy)phenyl]tetrahydropyran-4-carbonitrile | 81 mg, 13% | C1(CCCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C#N | C22H30N2O2
